US09428508B2
To a solution of 4-nitroindole (5 g, 31 mmol) in anhydrous N,N′-dimethylformamide (200 mL) was added grounded potassium hydroxide (1.74 g, 31 mmol) in portions. Then a solution of 1,3-dibromopropane (18 g, 89 mmol) in N,N′-dimethylformamide was added dropwise. The mixture was stirred at room temperature for 12 hours, diluted with water and extracted with ethyl acetate. The organic phases were combined, washed by brine, dried over anhydrous sodium sulfate, filtrated and evaporated. The residue was purified by silica gel chromatography to afford the product 1-(3-bromopropyl)-4-nitro-1H-indole as brown-red oil (8.18 g, yield 94%).

reactant | 4-nitroindole | 31 mmol, 5 g | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | potassium hydroxide | 31 mmol, 1.74 g | [OH-].[K+]
reactant | 1,3-dibromopropane | 89 mmol, 18 g | BrCCCBr | C3H6Br2
solvent | N,N′-dimethylformamide | 200 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-(3-bromopropyl)-4-nitro-1H-indole | 8.18 g, yield 94% | BrCCCN1C=CC2=C(C=CC=C12)[N+](=O)[O-] | C11H11BrN2O2
